US07399765B2
4-Bromo-1-phenyl-1H-pyrazole
A solution of bromine (1.1 g, 6.94 mmol) in acetic acid (10 mL) was added to a mixture of 1-phenylpyrazole (Aldrich, 1 g, 6.94 mmol) in acetic acid (10 mL). This mixture was warmed to 100° C. in a pressure tube for 8 h. The material was cooled to ambient temperature, poured into ice and H2O neutralized with excess saturated, aqueous NaHCO3. Ethyl acetate (50 mL) was added and the layers were separated. The aqueous layer was extracted with EtOAc (2×15 mL) and the combined organic extract was dried over Na2SO4 and concentrated under reduced pressure to give a crude solid. Purification by column chromatography (SiO2, 50% hexanes-EtOAc) provided the title compound (1.5 g, 6.72 mmol, 97% yield). MS (DCl/NH3) m/z 223, 225 (M+H)+.

reactant | bromine | 6.94 mmol, 1.1 g | BrBr | Br2
reactant | 1-phenylpyrazole | 6.94 mmol, 1 g | C1(=CC=CC=C1)N1N=CC=C1 | C9H8N2
reactant | H2O | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-1-phenyl-1H-pyrazole | 6.72 mmol, 1.5 g, 97% yield | BrC=1C=NN(C1)C1=CC=CC=C1 | C9H7BrN2
